US04511504
Leucine benzyl ester para-toluene sulphonic acid salt (113 g) in dry acetonitrile (800 ml) was treated with methyl 2-bromopropionate (62.7 ml) and N-methyl morpholine (100 ml) under reflux for 16 h. The reaction mixture was concentrated in vacuo and the residue in ethyl acetate washed with brine, dried (Na2SO4) and evaporated. Chromatography of the resulting oil on silica in 1:4 ethyl acetate-hexane gave N-[1-(R)-methoxycarbonylethyl]-L-leucine benzyl ester (45 g) as the faster running fraction. This material was treated exactly as described above in Example 2 to give the title compound.

reactant | Leucine benzyl ester para-toluene sulphonic acid salt | 113 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)CC(C)C)=O
reactant | methyl 2-bromopropionate | 62.7 ml | BrC(C(=O)OC)C | C4H7BrO2
reactant | N-methyl morpholine | 100 ml | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | N-[1-(R)-methoxycarbonylethyl]-L-leucine benzyl ester | 45 g | C(C1=CC=CC=C1)OC([C@@H](N[C@H](C)C(=O)OC)CC(C)C)=O | C17H25NO4
